US04795812
To 10.0 g (53 mM) of 6-phenylisocytosine is added 80 ml of phosphorus oxychloride. The mixture is heated to reflux, and refluxed until solution is complete (about 30 minutes). The solution is then cooled and evaporated to dryness under vacuum at 45° C. The resulting oil is poured into 300 ml of ice water, with vigorous stirring, and the remaining oil washed into the aqueous mixture with additional 100 ml of water. The entire aqueous mixture is neutralized to pH 8 with concentrated ammonium hydroxide, filtered, and solids washed well with water until water wash is neutral. Dry at 60° in a vacuum oven to yield 9.2 g of 4-chloro-6-phenyl-2-pyrimidinamine.

reactant | 6-phenylisocytosine | 53 mM, 10.0 g | C1=CC=C(C=C1)C2=CC(=O)N=C(N2)N | C10H9N3O
reactant | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-phenyl-2-pyrimidinamine | 9.2 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N | C10H8ClN3
